US08648099B2
c) 5-(4-Cyano-phenyl)-N-(4-hydroxy-piperidin-1-yl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide
In a 5 mL round-bottomed flask, the above prepared 5-(4-cyano-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid (0.050 g, 155 μmol, Eq: 1.00) was combined with THF (1 mL) and DMF (1 mL) to give a colorless solution. TBTU (74.7 mg, 233 μmol, Eq: 1.5) and N,N-diisopropyl-ethylamine (100 mg, 135 μL, 776 μmol, Eq: 5) were added. The reaction mixture was stirred for 10 min at RT, then 1-aminopiperidin-4-ol (21.6 mg, 186 μmol, Eq: 1.2, CAN 79414-82-7) was added and the reaction mixture kept at RT overnight. Pouring into 25 mL 1 M HCl, extraction with EtOAc (2×50 mL), washing with 1 M NaOH, drying over Na2SO4 and evaporation of all solvents in vacuo, followed by stirring for 15 min with 3 mL of heptane containing 3 drops of EtOAc, generated 51 mg of the title compound as white solid; MS (EI) 421.1 (M+H)+.

reactant | 5-(4-cyano-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | 155 μmol, 0.050 g | C(#N)C1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C15H9F3N2O3
reactant | TBTU | 233 μmol, 74.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropyl-ethylamine | 776 μmol, 135 μL, 100 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-aminopiperidin-4-ol | 186 μmol, 21.6 mg | NN1CCC(CC1)O | C5H12N2O
reactant | HCl | 1 M, 25 mL | Cl | ClH
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-(4-Cyano-phenyl)-N-(4-hydroxy-piperidin-1-yl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide | C(#N)C1=CC=C(C=C1)C=1C(=NC=C(C(=O)NN2CCC(CC2)O)C1)OCC(F)(F)F | C20H19F3N4O3
